US06071932
(2S)-3-(9H-Carbazol-9-yl)-2-methyl-1-((tetrahydropyran-2-yl)oxy)propane (Compound 9)
Carbazole (1.42 g, 0.0085 mol) was dissolved in dry DMF (40 mL) and NaH (60% dispersion in oil) (0.443 g, 0.0111 mol) was added. After stirring at ambient temperature for 45 min compound 8 (2.02 g, 0.0085 mol) was added and stirring continued at room temperature for 18 h. Water (20 mL) was added. Extraction with CH2Cl2 (3×20 ml), drying of the organic phases (MgSO4) and evaporation of the solvents in vacuo afforded an oil. Purification of the crude product twice on a silica gel column (1: Eluent: ethyl acetate/n-heptane(1:8), and 2: Eluent: ethyl acetate/toluene (1:9)) gave the title compound 0.59 g (21%) as an oil.

reactant | Carbazole | 0.0085 mol, 1.42 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | NaH | 0.0111 mol, 0.443 g | [H-].[Na+]
reactant | Water | 20 mL | O | H2O
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (2S)-3-(9H-Carbazol-9-yl)-2-methyl-1-((tetrahydropyran-2-yl)oxy)propane | 0.59 g, 21% | C1=CC=CC=2C3=CC=CC=C3N(C12)C[C@@H](COC1OCCCC1)C | C21H25NO2
